US04092482
In the manner of Example II, 22.1 g of 3-phenoxybenzyl 4-bromo-6,6,6-trichlorohexanoate was treated with 7.4 g of piperidine. Chromatography of the crude reaction product on a charcoal column using benzene as the eluent gave 13.5 g of 3-phenoxybenzyl 3,3-dimethyl-6,6,6-trichloro-4-hexenoate.

reactant | 3-phenoxybenzyl 4-bromo-6,6,6-trichlorohexanoate | 22.1 g | BrC(CCC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)CC(Cl)(Cl)Cl | C19H18BrCl3O3
reactant | piperidine | 7.4 g | N1CCCCC1 | C5H11N
reactant | charcoal | C | CH4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-phenoxybenzyl 3,3-dimethyl-6,6,6-trichloro-4-hexenoate | 13.5 g | CC(CC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)(C=CC(Cl)(Cl)Cl)C | C21H21Cl3O3
